US04948794
A solution of 0.5 g (2.3 mmol) 1-methyl-6-nitroquinoxaline-2,3(1H,4H)-dione in 25 ml dimethylformamide was hydrogenated at atm. pressure by using 5% Pd-c (0.1 g) as a catalyst. The reaction mixture was added 1 ml 4N hydrochloric acid, filtered and evaporated in vacuo. The residue was stirred with ethyl acetate. The precipitate was filtered off to give 0.5 g (98%) of 6-amino-1-methyl-quinoxaline-2,3 (1H,4H)-dione hydrochloride. NMR (DMSO-d6 +D2O): 7.3 (1H, d), 7.13 (1H, s), 7.1 (1H, d), 3.5 (3H, s), 2.6 (3H, s).

reactant | 1-methyl-6-nitroquinoxaline-2,3(1H,4H)-dione | 2.3 mmol, 0.5 g | CN1C(C(NC2=CC(=CC=C12)[N+](=O)[O-])=O)=O | C9H7N3O4
reactant | hydrochloric acid | 4N, 1 ml | Cl | ClH
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 6-amino-1-methyl-quinoxaline-2,3 (1H,4H)-dione hydrochloride | 0.5 g, 98% | Cl.NC=1C=C2NC(C(N(C2=CC1)C)=O)=O | InChI=1S/C9H9N3O2.ClH/c1-12-7-3-2-5(10)4-6(7)11-8(13)9(12)14;/h2-4H,10H2,1H3,(H,11,13);1H
